### PR TITLE
Convert ladderstep to stack allocation and begin the same for Montgomery ladder

### PR DESCRIPTION
**Pull request by DIJamner**
Updates the ladderstep function to generate stack allocations, and starts the process of updating the commented-out montladder function the same way. Also bumps rupicola to make stack allocation features available.

### CODE REVIEW

File: src/Bedrock/Group/ScalarMult/LadderStep.v [hunk 1]
```diff
@@ -48,151 +49,131 @@ Section __.
...
+                      (FElem None x_ptr x).
+  Proof.
+    unfold FElem.
+    intros m H.
+    sepsimpl.
+    exists x0.
+    sepsimpl; simpl in *; eauto using relax_bounds.
+  Qed.
+
+  (*TODO: move to pred_sep if deemed useful*)
```
Comment (andres-erbsen) [inline src/Bedrock/Group/ScalarMult/LadderStep.v:157]: I remember thinking that `pred_sep` could go away with `fnspec!`, was I wrong?

File: src/Bedrock/Group/ScalarMult/LadderStep.v [hunk 2]
```diff
@@ -217,15 +197,16 @@ Section __.
...
 End __.
 
 Existing Instance spec_of_ladderstep.
 
 Import Syntax.
 Local Unset Printing Coercions.
+Set Printing Depth 70.
+Print ladderstep_body.
 Redirect "Crypto.Bedrock.Group.ScalarMult.LadderStep.ladderstep_body" Print ladderstep_body.
+(*TODO: should I set it back?*)
```
Comment (andres-erbsen) [inline src/Bedrock/Group/ScalarMult/LadderStep.v:211]: I don't know a good way to undo `Set Printing Width`, I think it's best to just put the print in a dedicated file.

File: src/Bedrock/Group/ScalarMult/MontgomeryEquivalence.v [hunk 3]
```diff
@@ -15,8 +15,12 @@ Require Import Crypto.Util.Loops.
 Section Equivalence.
   Context {field_parameters : FieldParameters}.
 
+  (*TODO: which of ladderstep_gallina and M.xzladderstep should we change? either?*)
```
Comment (andres-erbsen) [inline src/Bedrock/Group/ScalarMult/MontgomeryEquivalence.v:18]: I think it's fine to change `xzladderstep` if `ladderstep_gallina` argument order is forced to something sane by rupicola. Also, `xzladderstep` does not need to be factored as an instantiation of `ladderstep_gen` anymore and `ladderstep_gen` can go away.

File: src/Bedrock/Group/ScalarMult/MontgomeryLadder.v [hunk 4]
```diff
@@ -34,30 +70,38 @@ Section __.
   Section Gallina.
     Local Open Scope F_scope.
 
+    Locate "let/n".
```
Comment (andres-erbsen) [inline src/Bedrock/Group/ScalarMult/MontgomeryLadder.v:73]: :scissors:

File: src/Bedrock/Group/ScalarMult/MontgomeryLadder.v [hunk 5]
```diff
@@ -66,40 +110,29 @@ Section __.
 
     Instance spec_of_montladder : spec_of "montladder" :=
       fnspec! "montladder"
-            (pOUT pK pU pX1 pZ1 pX2 pZ2
-                  pA pAA pB pBB pE pC pD pDA pCB : word)
-            / (K : scalar) (U : felem) (* inputs *)
-            OUT X1 Z1 X2 Z2 A AA B BB E C D DA CB (* intermediates *)
+            (pOUT pK pU (*pX1 pZ1 pX2 pZ2*) : word)
+            / (K : scalar) (U : F M_pos) (* inputs *)
+            out_bound OUT (*X1 Z1 X2 Z2 *) (* intermediates *)
```
Comment (andres-erbsen) [inline src/Bedrock/Group/ScalarMult/MontgomeryLadder.v:115]: :+1:

File: src/Bedrock/Group/ScalarMult/MontgomeryLadder.v [hunk 6]
```diff
@@ -125,67 +158,43 @@ Section __.
...
             | simple eapply compile_sctestbit
-            | simple eapply compile_point_assign
             | simple eapply compile_felem_small_literal
             | simple eapply compile_felem_copy
             | simple eapply compile_cswap_pair
             | apply_compile_cswap_nocopy ].
 
     (* TODO: make a new loop invariant, drop the sep-local stuff *)
-    (*
+    (*nat -> bool -> F M_pos * F M_pos * F M_pos * F M_pos * bool -> predicate*)
```
Comment (andres-erbsen) [inline src/Bedrock/Group/ScalarMult/MontgomeryLadder.v:167]: I believe the above TODO is now satisfied.

File: src/Bedrock/Group/ScalarMult/MontgomeryLadder.v [hunk 7]
```diff
@@ -285,20 +294,427 @@ Section __.
...
+  Instance spec_of_felem_cswap : spec_of felem_cswap :=
+    fnspec! felem_cswap mask ptr1 ptr2 / b1 b2 b c1 c2 R,
+    { requires tr mem :=
+        mask = word.of_Z (Z.b2z b) /\
+        (FElem b1 ptr1 c1 * FElem b2 ptr2 c2 * R)%sep mem;
+      ensures tr' mem' :=
+        tr' = tr /\
+        let (c1,c2) := cswap b c1 c2 in
+        let (b1,b2) := cswap b b1 b2 in
+        (FElem b1 ptr1 c1 * FElem b2 ptr2 c2 * R)%sep mem' }.
```
Comment (andres-erbsen) [inline src/Bedrock/Group/ScalarMult/MontgomeryLadder.v:315]: rename `mask`->`wb` or something, "`mask`" is reserved to the constants you pass into bitwise and.

File: src/Bedrock/Group/ScalarMult/MontgomeryLadder.v [hunk 8]
```diff
@@ -285,20 +294,427 @@ Section __.
...
+  
+   Lemma compile_felem_cswap {tr m l functions} swap (lhs rhs : F M_pos) :
+    let v := cswap swap lhs rhs in
+    forall {P} {pred: P v -> predicate} {k: nlet_eq_k P v} {k_impl}
```
Comment (andres-erbsen) [inline src/Bedrock/Group/ScalarMult/MontgomeryLadder.v:319]: is `predicate` still recommended usage of rupicola? why?

File: src/Bedrock/Group/ScalarMult/MontgomeryLadder.v [hunk 9]
```diff
@@ -285,20 +294,427 @@ Section __.
...
+      admit (*TODO: not lined up right*).
+
+      eexists; intuition.
+      (*TODO: out and out0 not limed up; want FElem'?*)
+      admit (*ecancel_assumption.*).
+    }
+      Unshelve.
+      constructor.
+
+(* NOTE: the plan is to completely redo montladder after ladderstep is updated to use stackalloc *)*)
```
Comment (andres-erbsen) [inline src/Bedrock/Group/ScalarMult/MontgomeryLadder.v:717]: maybe this comment is now obsolete, even if that plan is still in progress

File: src/Bedrock/Group/ScalarMult/LadderStep.v (hunk 1 above)
Comment (DIJamner) [reply src/Bedrock/Group/ScalarMult/LadderStep.v:157]: This comment is outdated, although it still marks a TODO. I plan to use this lemma to make the Rupicola-internal handling of pred_sep faster, but I haven't done so yet. I should probably remove it from this file though since it's currently unused. `pred_sep` definitely doesn't go away, but handling it seems to be fairly well automated by my current tactics.

File: src/Bedrock/Group/ScalarMult/MontgomeryLadder.v (hunk 8 above)
Comment (DIJamner) [reply src/Bedrock/Group/ScalarMult/MontgomeryLadder.v:319]: Yes, it is. I can't think of much to say as to why except that it's the type we expect `pred` to have.

File: src/Bedrock/Group/ScalarMult/LadderStep.v (hunk 2 above)
Comment (JasonGross) [reply src/Bedrock/Group/ScalarMult/LadderStep.v:211]: Put it in a section and make it `Local Set Printing Width`?

File: src/Bedrock/Field/Interface/Compilation.v [hunk 10]
```diff
@@ -210,15 +210,17 @@ Section Compile.
                     rewrite word.of_Z_unsigned in H end.
     use_hyp_with_matching_cmd; eauto.
   Qed.
+   
 End Compile.
 
+(*TODO: why doesn't simple eapply work? *)
```
Comment (JasonGross) [inline src/Bedrock/Field/Interface/Compilation.v:216]: What does this Todo refer to?

File: src/Bedrock/Field/Interface/Compilation.v [hunk 11]
```diff
@@ -210,15 +210,17 @@ Section Compile.
...
 Ltac field_compile_step :=
   first [ simple eapply compile_scmula24 (* must precede compile_mul *)
         | simple eapply compile_mul
         | simple eapply compile_add
         | simple eapply compile_sub
         | simple eapply compile_square
-        | simple eapply compile_inv ];
+        | simple eapply compile_inv];
```
Comment (JasonGross) [inline src/Bedrock/Field/Interface/Compilation.v:223]: Nit: Is this change deliberate?

File: src/Bedrock/Field/Interface/Compilation2.v [hunk 12]
```diff
@@ -0,0 +1,357 @@
...
+    sepsimpl;
+      eauto.
+    match goal with H : _ |- _ =>
+                    rewrite word.of_Z_unsigned in H end.
+    assumption.
+  Qed.
+   
+End Compile.
+
+(*TODO: why doesn't simple eapply work? *)
```
Comment (JasonGross) [inline src/Bedrock/Field/Interface/Compilation2.v:327]: What does this refer to?

File: src/Bedrock/Group/ScalarMult/LadderStep.v [hunk 13]
```diff
@@ -217,15 +197,16 @@ Section __.
...
-    repeat compile_step.
-  Qed.
 End __.
 
 Existing Instance spec_of_ladderstep.
 
 Import Syntax.
 Local Unset Printing Coercions.
+Set Printing Depth 70.
+Print ladderstep_body.
```
Comment (JasonGross) [inline src/Bedrock/Group/ScalarMult/LadderStep.v:209]: Please remove this, the standard build output should not be noisy

**Comment by DIJamner** [comment]
> CI failed on Crypto.Bedrock.Group.ScalarMult.LadderStep.ladderstep_body, the output test needs to be updated

I ran `make accept-Crypto.Bedrock.Group.ScalarMult.LadderStep.ladderstep_body`, committed `output-tests/Crypto.Bedrock.Group.ScalarMult.LadderStep.ladderstep_body.expected`, and on my machine the test seems to pass. Is there some way that I might have gotten out-of-sync with the CI or did I miss something?

**Comment by JasonGross** [comment]
Looks like it's a line breaking difference, maybe get rid of the `Set Printing Width`, which I think is respected by `Redirect` only in sufficiently new versions of Coq?

**Comment by DIJamner** [comment]
Thanks, I'll look into differences between versions of Coq.

**Comment by JasonGross** [comment]
Since we test multiple versions of Coq on CI, you'll have to find a way to make the test work regardless of whether or not the version respects the printing width.  I think the easiest way to do this is to just not have output tests use an altered printing width
